US06582351B1
To a solution of 4-methoxy-3-nitrotoluene (5.02 g) and N-bromosuccinimide (5.51 g) in dichloromethane (50 mL) was added 2,2′-azobis(4-methoxy-2,4-dimethylvaleronitrile) (463 mg). The mixture was heated under reflux for 8 hours. The solution was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with n-hexane-ethyl acetate (20:1) to give 4-methoxy-3-nitrobenzyl bromide as a pale yellow powder (5.78 g).

reactant | 4-methoxy-3-nitrotoluene | 5.02 g | COC1=C(C=C(C=C1)C)[N+](=O)[O-] | C8H9NO3
reactant | N-bromosuccinimide | 5.51 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 2,2′-azobis(4-methoxy-2,4-dimethylvaleronitrile) | 463 mg | N(=NC(C#N)(CC(C)(OC)C)C)C(C#N)(CC(C)(C)OC)C | C16H28N4O2
product | 4-methoxy-3-nitrobenzyl bromide | 5.78 g | COC1=C(C=C(CBr)C=C1)[N+](=O)[O-] | C8H8BrNO3
